US07772256B2
[5-(5-Methoxy-benzofuran-2-yl)-pyridin-2-yl]-methylamine
5-methoxybenzofuran boronic acid (1.2 mmol), 5-bromopyridine-2-methylamine (1.0 mmol), Pd(PPh3)2Cl2 (0.024 mmol) and NEt3 (317 μL) were mixed in EtOH (10 mL) in a 20 mL microwave vial. The mixture was stirred at 140° C. for 10 min in a microwave reactor. The solvent was removed under vacuum, water was added and the solution was extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated under vacuum. The crude substance was purified by preparative HPLC to afford the title compound as a white solid (100 mg). 1H NMR δ ppm 8.53 (d, 1 H) 7.84 (dd, 1 H) 7.44 (d, 1 H) 7.08 (d, 1 H) 7.04 (s, 1 H) 6.91 (d, 1 H) 6.81 (dd, 1 H) 6.55 (d, 1 H) 3.78 (s, 3 H) 2.83 (d, 3 H); MS m/z 255 (M+H).

reactant | 5-methoxybenzofuran boronic acid | 1.2 mmol | COC=1C=CC2=C(C=C(O2)B(O)O)C1 | C9H9BO4
reactant | 5-bromopyridine-2-methylamine | 1.0 mmol | BrC=1C=CC(=NC1)CN | C6H7BrN2
reactant | NEt3 | 317 μL | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd(PPh3)2Cl2 | 0.024 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [5-(5-Methoxy-benzofuran-2-yl)-pyridin-2-yl]-methylamine | 100 mg | COC=1C=CC2=C(C=C(O2)C=2C=CC(=NC2)NC)C1 | C15H14N2O2
